US04539426
N-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-3-(trifluoromethyl)benzenesulfonamide
N-isopropyl-3-trifluoromethylbenzenesulfonamide (5.362 g, 0.02 mol) in dimethylformamide (30 mL) was treated with sodium hydride (60% in mineral oil), (0.802 g) and stirred for 2 hours. Then N-(3-chloropropyl)-3,4-dimethoxy-N-methylphenethylamine (5.436 g, 0.02 mol) was added and the reaction heated overnight. Filtration and removal of solvent provided the crude product (6.95 g). Column chromatography and high pressure liquid chromatography provided the pure product (4.35 g) as a gum. 1H NMR (CDCl3) 1.15 (d, 6, J=3.5H, Me2) 2.25 (s, 3, N--Me) 3.84 (d, 6, (OMe)2) 6.76 (m, 3, Ar) 7.25 (m, 3, Ar).

reactant | N-isopropyl-3-trifluoromethylbenzenesulfonamide | 0.02 mol, 5.362 g | C(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C10H12F3NO2S
reactant | sodium hydride | 0.802 g | [H-].[Na+]
reactant | N-(3-chloropropyl)-3,4-dimethoxy-N-methylphenethylamine | 0.02 mol, 5.436 g | ClCCCN(C)CCC1=CC(=C(C=C1)OC)OC | C14H22ClNO2
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-3-(trifluoromethyl)benzenesulfonamide | 4.35 g | COC=1C=C(C=CC1OC)CCN(CCCN(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C(C)C)C | C24H33F3N2O4S
